US05962710
C. Preparation of 2-Azacyclononanone
Polyphosphoric acid (31.9 g) and water (3.75 g) were placed in a 100 mL round bottom flask equipped with a stir bar and a cold water condenser. The mixture was heated to 130 degrees C., and cyclooctanone oxime hydrochloride (5.9 g, 35 mmol, 1.0 eq) was added in small portions over 10 min. The oxime dissolved readily. The reaction mixture was stirred at 130 degrees C. for 1 hour, turned dark, was cooled to 100 degrees C., and poured into 100 mL of ice water. The aqueous mixture was extracted with chloroform (3×75 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The 2-azacyclononanone slowly crystallized into an off-white solid (4.69 g, 94%).

reactant | cyclooctanone oxime hydrochloride | 35 mmol, 5.9 g, 1.0 eq | Cl.C1(CCCCCCC1)=NO
reactant | water | 3.75 g | O | H2O
product | 2-Azacyclononanone | C1(NCCCCCCC1)=O | C8H15NO
